US08198267B2
3-Bromo-1-(2-methyl-4-nitrophenyl)pyridin-2(1H)-one
44.5 g (280 mmol) of 3-bromopyridin-2(1H)-one are dissolved in 750 ml of anhydrous dimethyl sulfoxide and admixed at room temperature with 33.4 g (298 mmol) of potassium tert-butoxide in portions. The suspension is stirred at this temperature for 1 h, before 38.5 g (280 mmol) of 1-fluoro-2-methyl-4-nitrobenzene are added and the reaction solution is heated to 80° C. for 20 h. It is allowed to cool and diluted cautiously with water. The precipitated crystalline solid is filtered off, washed with a little water and dried under reduced pressure. This affords 62 g (80% of theory) of the desired product.

reactant | 3-bromopyridin-2(1H)-one | 280 mmol, 44.5 g | BrC=1C(NC=CC1)=O | C5H4BrNO
reactant | potassium tert-butoxide | 298 mmol, 33.4 g | CC(C)([O-])C.[K+]
reactant | 1-fluoro-2-methyl-4-nitrobenzene | 280 mmol, 38.5 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
solvent | dimethyl sulfoxide | 750 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-Bromo-1-(2-methyl-4-nitrophenyl)pyridin-2(1H)-one | BrC=1C(N(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C)=O | C12H9BrN2O3
